US06441233B1
Preparation of 3-(trifluoromethyl)-benzoic Acid Amide
0.491 g of bis(triphenylphosphine)-palladium(II)chloride, 0.371 g of triphenylphosphine and 2.6 g of imidazole are placed in a 200 ml glass autoclave, and then 8.01 g of 3-(trifluoromethyl)bromobenzene, 25 ml of formamide and 810.3 mg of diethylene glycol dibutylether are added as an internal gas chromatography (GC) standard. The autoclave is closed, flushed with nitrogen three times and then 5 bars carbon monoxide are applied. The reaction mixture is heated to 120° C. and stirred for 14 hours. The mixture is then cooled and the content determined by GC (0.8 ml of reaction mixture mixed with 5 ml of water, then 2 ml of diethylether added, and GC determination effected with the organic phase). The yield of title compound is 82% by weight.

reactant | triphenylphosphine | 0.371 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 2.6 g | N1C=NC=C1 | C3H4N2
reactant | 3-(trifluoromethyl)bromobenzene | 8.01 g | FC(C=1C=C(C=CC1)Br)(F)F | C7H4BrF3
reactant | formamide | 25 ml | C(=O)N | CH3NO
reactant | diethylene glycol dibutylether | 810.3 mg | C(CCC)OCCOCCOCCCC | C12H26O3
catalyst | bis(triphenylphosphine)-palladium(II)chloride | 0.491 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | diethylether | 2 ml | C(C)OCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 3-(trifluoromethyl)-benzoic Acid Amide | FC(C=1C=C(C(=O)N)C=CC1)(F)F | C8H6F3NO
